US08563569B2
To a vial with 6-aminobenzo[d]oxazol-2(3H)-one (1.0 g, 6.7 mmol) and 2,4-dichloro-5-methylpyrimidine (1.4 g, 8.7 mmol), solvents MeOH (20 mL) and H2O (5 mL) were added. The turbid mixture was stirred at room temperature for 2 days. Precipitate from the reaction mixture was collected by filtration, washing with H2O (3 mL×2) and EtOAc (3 mL×2), and was further drying in vacuo. 6-(2-Chloro-5-methylpyrimidin-4-ylamino)benzo[d]oxazol-2(3H)-one was obtained as a light tan color solid: 1.59 g (86% yield); 1H NMR (300 MHz, DMSO) δ 11.59 (s, 1H), 8.87 (s, 1H), 7.99 (s, 1H), 7.56 (s, 1H), 7.28 (d, J=8.3, 1H), 7.06 (d, J=8.3, 1H), 2.14 (s, 3H).

reactant | 6-aminobenzo[d]oxazol-2(3H)-one | 6.7 mmol, 1.0 g | NC1=CC2=C(NC(O2)=O)C=C1 | C7H6N2O2
reactant | 2,4-dichloro-5-methylpyrimidine | 8.7 mmol, 1.4 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | MeOH | 20 mL | CO | CH4O
solvent | H2O | 5 mL | O | H2O
product | 6-(2-Chloro-5-methylpyrimidin-4-ylamino)benzo[d]oxazol-2(3H)-one | 86% yield | ClC1=NC=C(C(=N1)NC1=CC2=C(NC(O2)=O)C=C1)C | C12H9ClN4O2
